US06432955B1
85c. 1-Chloro-7-methoxy-isoquinoline
7-Methoxy-isoquinoline-N-oxide hydrochloride (38.2 g) was added in portions to phosphoryl chloride (275 mL) and the mixture heated at 90° C. for 6 h. Excess of phosphoryl chloride was removed in vacuo. The remaining white solid was washed with water, filtered and dried in vacuo.

reactant | 7-Methoxy-isoquinoline-N-oxide hydrochloride | 38.2 g | Cl.COC1=CC=C2C=C[N+](=CC2=C1)[O-]
reactant | phosphoryl chloride | 275 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-isoquinoline | ClC1=NC=CC2=CC=C(C=C12)OC | C10H8ClNO
